US08492582B2
Potassium carbonate (0.14 g) and 1-propylpiperazine dihydrochloride (0.12 g) were added to an acetone (1.6 mL) solution of methyl 2-(2-(benzyloxy)-5-(2-bromoethoxy)benzamido)-4-phenylbenzoate (0.080 g), followed by heating to reflux for 4 hours. After cooling the reaction mixture to room temperature, the solvent was evaporated under reduced pressure, and a saturated aqueous solution of sodium bicarbonate and chloroform were added to the residue. The organic layer was separated and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Kanto Chemical Co., Inc., silica gel 60 (spherical), eluent: 100-90% chloroform/methanol] to obtain 0.081 g of methyl 2-(2-(benzyloxy)-5-(2-(4-propylpiperazin-1-yl)ethoxy)benzamido)-4-phenylbenzoate as a light yellow oily substance.

reactant | Potassium carbonate | 0.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-propylpiperazine dihydrochloride | 0.12 g | Cl.Cl.C(CC)N1CCNCC1
reactant | methyl 2-(2-(benzyloxy)-5-(2-bromoethoxy)benzamido)-4-phenylbenzoate | 0.080 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OCCBr | C30H26BrNO5
solvent | acetone | 1.6 mL | CC(=O)C | C3H6O
product | methyl 2-(2-(benzyloxy)-5-(2-(4-propylpiperazin-1-yl)ethoxy)benzamido)-4-phenylbenzoate | 0.081 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OCCN1CCN(CC1)CCC | C37H41N3O5
